US07968746B2
Following the amide coupling procedure described in protocol A, 510 mg 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (2.04 mmol), 357 mg CDI (2.20 mmol) and 161 mg isobutylamine (2.2 mmol) produced 467 mg of 6-hydroxy-N-isobutyl-2,5,7,8-tetramethylchroman-2-carboxamide as an off-white solid.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 2.04 mmol, 510 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 2.20 mmol, 357 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | isobutylamine | 2.2 mmol, 161 mg | C(C(C)C)N | C4H11N
product | 6-hydroxy-N-isobutyl-2,5,7,8-tetramethylchroman-2-carboxamide | 467 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCC(C)C)C)C | C18H27NO3
